US04188396
A solution of 43 g of 4-ethylbenzaldehyde and 52 g of diethylphosphonoacetonitrile in 300 ml of methylene chloride is added dropwise within 15 minutes, with ice cooling, to a well-stirred emulsion of 6.5 g of tetrabutylammonium bromide in 180 ml of 50% sodium hydroxide solution and 150 ml of methylene chloride. Stirring is maintained at room temperature for 30 minutes, the organic phase is separated, washed neutral with water, dried over sodium sulphate and concentrated in vacuo. The crude p-ethyl-cinnamic acid nitrile thus obtained is added to a solution of 8 g of sodium in 53 g of malonic acid diethyl ester and 400 ml of absolute ethanol, and the mixture is refluxed for 2 hours. It is then concentrated in vacuo to a third of the volume; 500 ml of 0.5 N acetic acid is added, and extraction is performed three times with 500 ml of ether each time. The organic phases are washed until neutral, dried over sodium sulphate and concentrated in vacuo to dryness. Chromatography of the residue on 1 kg of silica gel with methylene chloride as the eluant yields 2-carboethoxy-3-(4-ethylphenyl)-4-cyano-butyric acid ethyl ester as colourless oil.

reactant | 4-ethylbenzaldehyde | 43 g | C(C)C1=CC=C(C=O)C=C1 | C9H10O
reactant | diethylphosphonoacetonitrile | 52 g | C(C)OP(=O)(OCC)CC#N | C6H12NO3P
reactant | sodium | 8 g | [Na] | Na
reactant | malonic acid diethyl ester | 53 g | C(C)OC(CC(=O)OCC)=O | C7H12O4
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
catalyst | tetrabutylammonium bromide | 6.5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | sodium hydroxide | 180 ml | [OH-].[Na+]
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 2-carboethoxy-3-(4-ethylphenyl)-4-cyano-butyric acid ethyl ester | C(C)OC(C(C(CC#N)C1=CC=C(C=C1)CC)C(=O)OCC)=O | C18H23NO4
